US09108966B2
TFA (0.20 mL) was added to a mixture of sodium (2S,5R)-2-(5-(4-(tert-butoxycarbonyl)piperazin-1-yl)-1,3,4-thiadiazol-2-yl)-7-oxo-1,6-diaza-bicyclo[3.2.1]octan-6-yl sulfate after lyophilization (33 mg, 0.064 mmol) in dry DCM (0.60 mL) at 0° C. The reaction mixture was stirred at 0° C. for 2-3 hrs and then diluted with ether (˜10 mL). The precipitate was collected via centrifugation, washed with ether (3×) and dried under high vacuum to afford (2S,5R)-7-oxo-2-(5-(piperazin-1-yl)-1,3,4-thiadiazol-2-yl)-1,6-diazabicyclo[3.2.1]octan-6-yl hydrogen sulfate (10 mg) as aTFA salt. ESI-MS (EI+, m/z): 391.1.

reactant | TFA | 0.20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium (2S,5R)-2-(5-(4-(tert-butoxycarbonyl)piperazin-1-yl)-1,3,4-thiadiazol-2-yl)-7-oxo-1,6-diaza-bicyclo[3.2.1]octan-6-yl sulfate | S(=O)(=O)(ON1[C@@H]2CC[C@H](N(C1=O)C2)C=2SC(=NN2)N2CCN(CC2)C(=O)OC(C)(C)C)[O-].[Na+]
solvent | DCM | 0.60 mL | C(Cl)Cl | CH2Cl2
solvent | ether | ˜10 mL | CCOCC | C4H10O
product | (2S,5R)-7-oxo-2-(5-(piperazin-1-yl)-1,3,4-thiadiazol-2-yl)-1,6-diazabicyclo[3.2.1]octan-6-yl hydrogen sulfate | 10 mg | S(=O)(=O)(ON1[C@@H]2CC[C@H](N(C1=O)C2)C=2SC(=NN2)N2CCNCC2)O | C12H18N6O5S2
